US05869517
a) Phenyl N-hydroxy-N-(2-methylphenyl)carbamate
A mixture of 350 g (purity about 80%; 2.3 mol; prepared by a similar method to Bamberger et al., Ann. Chem. 316 (1901), 278) of N-(2-methylphenyl)hydroxylamine and 286.8 g (3.4 mol) of NaHCO3 in 700 ml of CH2Cl2 is treated with 447 g (2.85 mol) of phenyl chloroformate with vigorous stirring at about -10° C. The mixture is stirred for about 1 hour at -10° C. and 600 ml of water are then added dropwise, the temperature of the reaction mixture increasing to 5°-10° C. and a vigorous evolution of gas occurring. The aqueous phase is then separated off and extracted once more with CH2Cl2. The combined organic phases are extracted with water, dried over MgSO4 and concentrated. The residue crystallizes and is stirred with cyclohexane. 407 g (72%) of the title compound are obtained as a colorless solid.

reactant | N-(2-methylphenyl)hydroxylamine | CC1=C(C=CC=C1)NO | C7H9NO
reactant | NaHCO3 | 3.4 mol, 286.8 g | C(=O)(O)[O-].[Na+]
reactant | phenyl chloroformate | 2.85 mol, 447 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | 600 ml | O | H2O
solvent | CH2Cl2 | 700 ml | C(Cl)Cl | CH2Cl2
product | Phenyl N-hydroxy-N-(2-methylphenyl)carbamate | 407 g, 72% | ON(C(OC1=CC=CC=C1)=O)C1=C(C=CC=C1)C | C14H13NO3
